/////////////////////////////////////////////////////////////
// Created by: Synopsys DC Ultra(TM) in wire load mode
// Version   : M-2016.12-SP2
// Date      : Thu Apr 18 13:04:11 2019
/////////////////////////////////////////////////////////////


module neg64 ( a, result );
  input [63:0] a;
  output [63:0] result;
  wire   n2, n3, n4, n5, n6, n7, n8, n9, n10, n11, n12, n13, n14, n15, n16,
         n17, n18, n19, n20, n21, n22, n23, n24, n25, n26, n27, n28, n29, n30,
         n31, n32, n33, n34, n35, n36, n37, n38, n39, n40, n41, n42, n43, n44,
         n45, n46, n47, n48, n49, n50, n51, n52, n53, n54, n55, n56, n57, n58,
         n59, n60, n61, n62, n63, n64, n65, n66, n67, n68, n69, n70, n71, n72,
         n73, n74, n75, n76, n77, n78, n79, n80, n81, n82, n83, n84, n85, n86,
         n87, n88, n89, n90, n91, n92, n93, n94, n95, n96, n97, n98, n99, n100,
         n101, n102, n103, n104, n105, n106, n107, n108, n109, n110, n111,
         n112, n113, n114, n115, n116, n117, n118, n119, n120, n121, n122,
         n123, n124, n125, n126, n127;
  assign result[0] = a[0];

  INV_X1 U4 ( .A(a[10]), .ZN(n2) );
  INV_X1 U5 ( .A(result[0]), .ZN(n21) );
  INV_X1 U6 ( .A(a[1]), .ZN(n20) );
  AND2_X1 U7 ( .A1(n21), .A2(n20), .ZN(n42) );
  INV_X1 U8 ( .A(a[2]), .ZN(n43) );
  AND2_X1 U9 ( .A1(n42), .A2(n43), .ZN(n64) );
  INV_X1 U10 ( .A(a[3]), .ZN(n65) );
  AND2_X1 U11 ( .A1(n64), .A2(n65), .ZN(n86) );
  INV_X1 U12 ( .A(a[4]), .ZN(n87) );
  AND2_X1 U13 ( .A1(n86), .A2(n87), .ZN(n108) );
  INV_X1 U14 ( .A(a[5]), .ZN(n109) );
  AND2_X1 U15 ( .A1(n108), .A2(n109), .ZN(n120) );
  INV_X1 U16 ( .A(a[6]), .ZN(n121) );
  AND2_X1 U17 ( .A1(n120), .A2(n121), .ZN(n122) );
  INV_X1 U18 ( .A(a[7]), .ZN(n123) );
  AND2_X1 U19 ( .A1(n122), .A2(n123), .ZN(n124) );
  INV_X1 U20 ( .A(a[8]), .ZN(n125) );
  AND2_X1 U21 ( .A1(n124), .A2(n125), .ZN(n126) );
  INV_X1 U22 ( .A(a[9]), .ZN(n127) );
  AND2_X1 U23 ( .A1(n126), .A2(n127), .ZN(n3) );
  XOR2_X1 U24 ( .A(n2), .B(n3), .Z(result[10]) );
  INV_X1 U25 ( .A(a[11]), .ZN(n4) );
  AND2_X1 U26 ( .A1(n3), .A2(n2), .ZN(n5) );
  XOR2_X1 U27 ( .A(n4), .B(n5), .Z(result[11]) );
  INV_X1 U28 ( .A(a[12]), .ZN(n6) );
  AND2_X1 U29 ( .A1(n5), .A2(n4), .ZN(n7) );
  XOR2_X1 U30 ( .A(n6), .B(n7), .Z(result[12]) );
  INV_X1 U31 ( .A(a[13]), .ZN(n8) );
  AND2_X1 U32 ( .A1(n7), .A2(n6), .ZN(n9) );
  XOR2_X1 U33 ( .A(n8), .B(n9), .Z(result[13]) );
  INV_X1 U34 ( .A(a[14]), .ZN(n10) );
  AND2_X1 U35 ( .A1(n9), .A2(n8), .ZN(n11) );
  XOR2_X1 U36 ( .A(n10), .B(n11), .Z(result[14]) );
  INV_X1 U37 ( .A(a[15]), .ZN(n12) );
  AND2_X1 U38 ( .A1(n11), .A2(n10), .ZN(n13) );
  XOR2_X1 U39 ( .A(n12), .B(n13), .Z(result[15]) );
  INV_X1 U40 ( .A(a[16]), .ZN(n14) );
  AND2_X1 U41 ( .A1(n13), .A2(n12), .ZN(n15) );
  XOR2_X1 U42 ( .A(n14), .B(n15), .Z(result[16]) );
  INV_X1 U43 ( .A(a[17]), .ZN(n16) );
  AND2_X1 U44 ( .A1(n15), .A2(n14), .ZN(n17) );
  XOR2_X1 U45 ( .A(n16), .B(n17), .Z(result[17]) );
  INV_X1 U46 ( .A(a[18]), .ZN(n18) );
  AND2_X1 U47 ( .A1(n17), .A2(n16), .ZN(n19) );
  XOR2_X1 U48 ( .A(n18), .B(n19), .Z(result[18]) );
  INV_X1 U49 ( .A(a[19]), .ZN(n22) );
  AND2_X1 U50 ( .A1(n19), .A2(n18), .ZN(n23) );
  XOR2_X1 U51 ( .A(n22), .B(n23), .Z(result[19]) );
  XOR2_X1 U52 ( .A(n21), .B(n20), .Z(result[1]) );
  INV_X1 U53 ( .A(a[20]), .ZN(n24) );
  AND2_X1 U54 ( .A1(n23), .A2(n22), .ZN(n25) );
  XOR2_X1 U55 ( .A(n24), .B(n25), .Z(result[20]) );
  INV_X1 U56 ( .A(a[21]), .ZN(n26) );
  AND2_X1 U57 ( .A1(n25), .A2(n24), .ZN(n27) );
  XOR2_X1 U58 ( .A(n26), .B(n27), .Z(result[21]) );
  INV_X1 U59 ( .A(a[22]), .ZN(n28) );
  AND2_X1 U60 ( .A1(n27), .A2(n26), .ZN(n29) );
  XOR2_X1 U61 ( .A(n28), .B(n29), .Z(result[22]) );
  INV_X1 U62 ( .A(a[23]), .ZN(n30) );
  AND2_X1 U63 ( .A1(n29), .A2(n28), .ZN(n31) );
  XOR2_X1 U64 ( .A(n30), .B(n31), .Z(result[23]) );
  INV_X1 U65 ( .A(a[24]), .ZN(n32) );
  AND2_X1 U66 ( .A1(n31), .A2(n30), .ZN(n33) );
  XOR2_X1 U67 ( .A(n32), .B(n33), .Z(result[24]) );
  INV_X1 U68 ( .A(a[25]), .ZN(n34) );
  AND2_X1 U69 ( .A1(n33), .A2(n32), .ZN(n35) );
  XOR2_X1 U70 ( .A(n34), .B(n35), .Z(result[25]) );
  INV_X1 U71 ( .A(a[26]), .ZN(n36) );
  AND2_X1 U72 ( .A1(n35), .A2(n34), .ZN(n37) );
  XOR2_X1 U73 ( .A(n36), .B(n37), .Z(result[26]) );
  INV_X1 U74 ( .A(a[27]), .ZN(n38) );
  AND2_X1 U75 ( .A1(n37), .A2(n36), .ZN(n39) );
  XOR2_X1 U76 ( .A(n38), .B(n39), .Z(result[27]) );
  INV_X1 U77 ( .A(a[28]), .ZN(n40) );
  AND2_X1 U78 ( .A1(n39), .A2(n38), .ZN(n41) );
  XOR2_X1 U79 ( .A(n40), .B(n41), .Z(result[28]) );
  INV_X1 U80 ( .A(a[29]), .ZN(n44) );
  AND2_X1 U81 ( .A1(n41), .A2(n40), .ZN(n45) );
  XOR2_X1 U82 ( .A(n44), .B(n45), .Z(result[29]) );
  XOR2_X1 U83 ( .A(n43), .B(n42), .Z(result[2]) );
  INV_X1 U84 ( .A(a[30]), .ZN(n46) );
  AND2_X1 U85 ( .A1(n45), .A2(n44), .ZN(n47) );
  XOR2_X1 U86 ( .A(n46), .B(n47), .Z(result[30]) );
  INV_X1 U87 ( .A(a[31]), .ZN(n48) );
  AND2_X1 U88 ( .A1(n47), .A2(n46), .ZN(n49) );
  XOR2_X1 U89 ( .A(n48), .B(n49), .Z(result[31]) );
  INV_X1 U90 ( .A(a[32]), .ZN(n50) );
  AND2_X1 U91 ( .A1(n49), .A2(n48), .ZN(n51) );
  XOR2_X1 U92 ( .A(n50), .B(n51), .Z(result[32]) );
  INV_X1 U93 ( .A(a[33]), .ZN(n52) );
  AND2_X1 U94 ( .A1(n51), .A2(n50), .ZN(n53) );
  XOR2_X1 U95 ( .A(n52), .B(n53), .Z(result[33]) );
  INV_X1 U96 ( .A(a[34]), .ZN(n54) );
  AND2_X1 U97 ( .A1(n53), .A2(n52), .ZN(n55) );
  XOR2_X1 U98 ( .A(n54), .B(n55), .Z(result[34]) );
  INV_X1 U99 ( .A(a[35]), .ZN(n56) );
  AND2_X1 U100 ( .A1(n55), .A2(n54), .ZN(n57) );
  XOR2_X1 U101 ( .A(n56), .B(n57), .Z(result[35]) );
  INV_X1 U102 ( .A(a[36]), .ZN(n58) );
  AND2_X1 U103 ( .A1(n57), .A2(n56), .ZN(n59) );
  XOR2_X1 U104 ( .A(n58), .B(n59), .Z(result[36]) );
  INV_X1 U105 ( .A(a[37]), .ZN(n60) );
  AND2_X1 U106 ( .A1(n59), .A2(n58), .ZN(n61) );
  XOR2_X1 U107 ( .A(n60), .B(n61), .Z(result[37]) );
  INV_X1 U108 ( .A(a[38]), .ZN(n62) );
  AND2_X1 U109 ( .A1(n61), .A2(n60), .ZN(n63) );
  XOR2_X1 U110 ( .A(n62), .B(n63), .Z(result[38]) );
  INV_X1 U111 ( .A(a[39]), .ZN(n66) );
  AND2_X1 U112 ( .A1(n63), .A2(n62), .ZN(n67) );
  XOR2_X1 U113 ( .A(n66), .B(n67), .Z(result[39]) );
  XOR2_X1 U114 ( .A(n65), .B(n64), .Z(result[3]) );
  INV_X1 U115 ( .A(a[40]), .ZN(n68) );
  AND2_X1 U116 ( .A1(n67), .A2(n66), .ZN(n69) );
  XOR2_X1 U117 ( .A(n68), .B(n69), .Z(result[40]) );
  INV_X1 U118 ( .A(a[41]), .ZN(n70) );
  AND2_X1 U119 ( .A1(n69), .A2(n68), .ZN(n71) );
  XOR2_X1 U120 ( .A(n70), .B(n71), .Z(result[41]) );
  INV_X1 U121 ( .A(a[42]), .ZN(n72) );
  AND2_X1 U122 ( .A1(n71), .A2(n70), .ZN(n73) );
  XOR2_X1 U123 ( .A(n72), .B(n73), .Z(result[42]) );
  INV_X1 U124 ( .A(a[43]), .ZN(n74) );
  AND2_X1 U125 ( .A1(n73), .A2(n72), .ZN(n75) );
  XOR2_X1 U126 ( .A(n74), .B(n75), .Z(result[43]) );
  INV_X1 U127 ( .A(a[44]), .ZN(n76) );
  AND2_X1 U128 ( .A1(n75), .A2(n74), .ZN(n77) );
  XOR2_X1 U129 ( .A(n76), .B(n77), .Z(result[44]) );
  INV_X1 U130 ( .A(a[45]), .ZN(n78) );
  AND2_X1 U131 ( .A1(n77), .A2(n76), .ZN(n79) );
  XOR2_X1 U132 ( .A(n78), .B(n79), .Z(result[45]) );
  INV_X1 U133 ( .A(a[46]), .ZN(n80) );
  AND2_X1 U134 ( .A1(n79), .A2(n78), .ZN(n81) );
  XOR2_X1 U135 ( .A(n80), .B(n81), .Z(result[46]) );
  INV_X1 U136 ( .A(a[47]), .ZN(n82) );
  AND2_X1 U137 ( .A1(n81), .A2(n80), .ZN(n83) );
  XOR2_X1 U138 ( .A(n82), .B(n83), .Z(result[47]) );
  INV_X1 U139 ( .A(a[48]), .ZN(n84) );
  AND2_X1 U140 ( .A1(n83), .A2(n82), .ZN(n85) );
  XOR2_X1 U141 ( .A(n84), .B(n85), .Z(result[48]) );
  INV_X1 U142 ( .A(a[49]), .ZN(n88) );
  AND2_X1 U143 ( .A1(n85), .A2(n84), .ZN(n89) );
  XOR2_X1 U144 ( .A(n88), .B(n89), .Z(result[49]) );
  XOR2_X1 U145 ( .A(n87), .B(n86), .Z(result[4]) );
  INV_X1 U146 ( .A(a[50]), .ZN(n90) );
  AND2_X1 U147 ( .A1(n89), .A2(n88), .ZN(n91) );
  XOR2_X1 U148 ( .A(n90), .B(n91), .Z(result[50]) );
  INV_X1 U149 ( .A(a[51]), .ZN(n92) );
  AND2_X1 U150 ( .A1(n91), .A2(n90), .ZN(n93) );
  XOR2_X1 U151 ( .A(n92), .B(n93), .Z(result[51]) );
  INV_X1 U152 ( .A(a[52]), .ZN(n94) );
  AND2_X1 U153 ( .A1(n93), .A2(n92), .ZN(n95) );
  XOR2_X1 U154 ( .A(n94), .B(n95), .Z(result[52]) );
  INV_X1 U155 ( .A(a[53]), .ZN(n96) );
  AND2_X1 U156 ( .A1(n95), .A2(n94), .ZN(n97) );
  XOR2_X1 U157 ( .A(n96), .B(n97), .Z(result[53]) );
  INV_X1 U158 ( .A(a[54]), .ZN(n98) );
  AND2_X1 U159 ( .A1(n97), .A2(n96), .ZN(n99) );
  XOR2_X1 U160 ( .A(n98), .B(n99), .Z(result[54]) );
  INV_X1 U161 ( .A(a[55]), .ZN(n100) );
  AND2_X1 U162 ( .A1(n99), .A2(n98), .ZN(n101) );
  XOR2_X1 U163 ( .A(n100), .B(n101), .Z(result[55]) );
  INV_X1 U164 ( .A(a[56]), .ZN(n102) );
  AND2_X1 U165 ( .A1(n101), .A2(n100), .ZN(n103) );
  XOR2_X1 U166 ( .A(n102), .B(n103), .Z(result[56]) );
  INV_X1 U167 ( .A(a[57]), .ZN(n104) );
  AND2_X1 U168 ( .A1(n103), .A2(n102), .ZN(n105) );
  XOR2_X1 U169 ( .A(n104), .B(n105), .Z(result[57]) );
  INV_X1 U170 ( .A(a[58]), .ZN(n106) );
  AND2_X1 U171 ( .A1(n105), .A2(n104), .ZN(n107) );
  XOR2_X1 U172 ( .A(n106), .B(n107), .Z(result[58]) );
  INV_X1 U173 ( .A(a[59]), .ZN(n110) );
  AND2_X1 U174 ( .A1(n107), .A2(n106), .ZN(n111) );
  XOR2_X1 U175 ( .A(n110), .B(n111), .Z(result[59]) );
  XOR2_X1 U176 ( .A(n109), .B(n108), .Z(result[5]) );
  INV_X1 U177 ( .A(a[60]), .ZN(n112) );
  AND2_X1 U178 ( .A1(n111), .A2(n110), .ZN(n113) );
  XOR2_X1 U179 ( .A(n112), .B(n113), .Z(result[60]) );
  INV_X1 U180 ( .A(a[61]), .ZN(n114) );
  AND2_X1 U181 ( .A1(n113), .A2(n112), .ZN(n115) );
  XOR2_X1 U182 ( .A(n114), .B(n115), .Z(result[61]) );
  INV_X1 U183 ( .A(a[62]), .ZN(n116) );
  AND2_X1 U184 ( .A1(n115), .A2(n114), .ZN(n117) );
  XOR2_X1 U185 ( .A(n116), .B(n117), .Z(result[62]) );
  INV_X1 U186 ( .A(a[63]), .ZN(n119) );
  AND2_X1 U187 ( .A1(n117), .A2(n116), .ZN(n118) );
  XOR2_X1 U188 ( .A(n119), .B(n118), .Z(result[63]) );
  XOR2_X1 U189 ( .A(n121), .B(n120), .Z(result[6]) );
  XOR2_X1 U190 ( .A(n123), .B(n122), .Z(result[7]) );
  XOR2_X1 U191 ( .A(n125), .B(n124), .Z(result[8]) );
  XOR2_X1 U192 ( .A(n127), .B(n126), .Z(result[9]) );
endmodule

