/////////////////////////////////////////////////////////////
// Created by: Synopsys DC Ultra(TM) in wire load mode
// Version   : M-2016.12-SP2
// Date      : Thu Apr 18 13:05:43 2019
/////////////////////////////////////////////////////////////


module zero_equal ( a, res );
  input [63:0] a;
  output [0:0] res;
  wire   N0, n127, n128, n129, n130, n131, n132, n133, n134, n135, n136, n137,
         n138, n139, n140, n141, n142, n143, n144, n145, n146, n147, n148,
         n149, n150, n151, n152, n153, n154, n155, n156, n157, n158, n159,
         n160, n161, n162, n163, n164, n165, n166, n167, n168, n169, n170,
         n171, n172, n173, n174, n175, n176, n177, n178, n179, n180, n181,
         n182, n183, n184, n185, n186, n187, n188, n189, n190, n191, n192,
         n193, n194, n195, n196, n197, n198, n199, n200, n201, n202, n203,
         n204, n205, n206, n207, n208, n209, n210, n211, n212, n213, n214,
         n215, n216, n217, n218, n219, n220, n221, n222, n223, n224, n225,
         n226, n227, n228, n229, n230, n231, n232, n233, n234, n235, n236,
         n237, n238, n239, n240, n241, n242, n243, n244, n245, n246, n247,
         n248, n249, n250, n251, n252;
  assign res[0] = N0;

  INV_X1 U129 ( .A(a[21]), .ZN(n128) );
  INV_X1 U130 ( .A(a[23]), .ZN(n127) );
  AND2_X1 U131 ( .A1(n128), .A2(n127), .ZN(n132) );
  INV_X1 U132 ( .A(a[22]), .ZN(n130) );
  INV_X1 U133 ( .A(a[20]), .ZN(n129) );
  AND2_X1 U134 ( .A1(n130), .A2(n129), .ZN(n131) );
  AND2_X1 U135 ( .A1(n132), .A2(n131), .ZN(n140) );
  INV_X1 U136 ( .A(a[29]), .ZN(n134) );
  INV_X1 U137 ( .A(a[31]), .ZN(n133) );
  AND2_X1 U138 ( .A1(n134), .A2(n133), .ZN(n138) );
  INV_X1 U139 ( .A(a[30]), .ZN(n136) );
  INV_X1 U140 ( .A(a[28]), .ZN(n135) );
  AND2_X1 U141 ( .A1(n136), .A2(n135), .ZN(n137) );
  AND2_X1 U142 ( .A1(n138), .A2(n137), .ZN(n139) );
  AND2_X1 U143 ( .A1(n140), .A2(n139), .ZN(n156) );
  INV_X1 U144 ( .A(a[25]), .ZN(n142) );
  INV_X1 U145 ( .A(a[27]), .ZN(n141) );
  AND2_X1 U146 ( .A1(n142), .A2(n141), .ZN(n146) );
  INV_X1 U147 ( .A(a[26]), .ZN(n144) );
  INV_X1 U148 ( .A(a[24]), .ZN(n143) );
  AND2_X1 U149 ( .A1(n144), .A2(n143), .ZN(n145) );
  AND2_X1 U150 ( .A1(n146), .A2(n145), .ZN(n154) );
  INV_X1 U151 ( .A(a[17]), .ZN(n148) );
  INV_X1 U152 ( .A(a[19]), .ZN(n147) );
  AND2_X1 U153 ( .A1(n148), .A2(n147), .ZN(n152) );
  INV_X1 U154 ( .A(a[18]), .ZN(n150) );
  INV_X1 U155 ( .A(a[16]), .ZN(n149) );
  AND2_X1 U156 ( .A1(n150), .A2(n149), .ZN(n151) );
  AND2_X1 U157 ( .A1(n152), .A2(n151), .ZN(n153) );
  AND2_X1 U158 ( .A1(n154), .A2(n153), .ZN(n155) );
  AND2_X1 U159 ( .A1(n156), .A2(n155), .ZN(n188) );
  INV_X1 U160 ( .A(a[53]), .ZN(n158) );
  INV_X1 U161 ( .A(a[55]), .ZN(n157) );
  AND2_X1 U162 ( .A1(n158), .A2(n157), .ZN(n162) );
  INV_X1 U163 ( .A(a[54]), .ZN(n160) );
  INV_X1 U164 ( .A(a[52]), .ZN(n159) );
  AND2_X1 U165 ( .A1(n160), .A2(n159), .ZN(n161) );
  AND2_X1 U166 ( .A1(n162), .A2(n161), .ZN(n170) );
  INV_X1 U167 ( .A(a[61]), .ZN(n164) );
  INV_X1 U168 ( .A(a[63]), .ZN(n163) );
  AND2_X1 U169 ( .A1(n164), .A2(n163), .ZN(n168) );
  INV_X1 U170 ( .A(a[62]), .ZN(n166) );
  INV_X1 U171 ( .A(a[60]), .ZN(n165) );
  AND2_X1 U172 ( .A1(n166), .A2(n165), .ZN(n167) );
  AND2_X1 U173 ( .A1(n168), .A2(n167), .ZN(n169) );
  AND2_X1 U174 ( .A1(n170), .A2(n169), .ZN(n186) );
  INV_X1 U175 ( .A(a[57]), .ZN(n172) );
  INV_X1 U176 ( .A(a[59]), .ZN(n171) );
  AND2_X1 U177 ( .A1(n172), .A2(n171), .ZN(n176) );
  INV_X1 U178 ( .A(a[58]), .ZN(n174) );
  INV_X1 U179 ( .A(a[56]), .ZN(n173) );
  AND2_X1 U180 ( .A1(n174), .A2(n173), .ZN(n175) );
  AND2_X1 U181 ( .A1(n176), .A2(n175), .ZN(n184) );
  INV_X1 U182 ( .A(a[49]), .ZN(n178) );
  INV_X1 U183 ( .A(a[51]), .ZN(n177) );
  AND2_X1 U184 ( .A1(n178), .A2(n177), .ZN(n182) );
  INV_X1 U185 ( .A(a[50]), .ZN(n180) );
  INV_X1 U186 ( .A(a[48]), .ZN(n179) );
  AND2_X1 U187 ( .A1(n180), .A2(n179), .ZN(n181) );
  AND2_X1 U188 ( .A1(n182), .A2(n181), .ZN(n183) );
  AND2_X1 U189 ( .A1(n184), .A2(n183), .ZN(n185) );
  AND2_X1 U190 ( .A1(n186), .A2(n185), .ZN(n187) );
  AND2_X1 U191 ( .A1(n188), .A2(n187), .ZN(n252) );
  INV_X1 U192 ( .A(a[37]), .ZN(n190) );
  INV_X1 U193 ( .A(a[39]), .ZN(n189) );
  AND2_X1 U194 ( .A1(n190), .A2(n189), .ZN(n194) );
  INV_X1 U195 ( .A(a[38]), .ZN(n192) );
  INV_X1 U196 ( .A(a[36]), .ZN(n191) );
  AND2_X1 U197 ( .A1(n192), .A2(n191), .ZN(n193) );
  AND2_X1 U198 ( .A1(n194), .A2(n193), .ZN(n202) );
  INV_X1 U199 ( .A(a[45]), .ZN(n196) );
  INV_X1 U200 ( .A(a[47]), .ZN(n195) );
  AND2_X1 U201 ( .A1(n196), .A2(n195), .ZN(n200) );
  INV_X1 U202 ( .A(a[46]), .ZN(n198) );
  INV_X1 U203 ( .A(a[44]), .ZN(n197) );
  AND2_X1 U204 ( .A1(n198), .A2(n197), .ZN(n199) );
  AND2_X1 U205 ( .A1(n200), .A2(n199), .ZN(n201) );
  AND2_X1 U206 ( .A1(n202), .A2(n201), .ZN(n218) );
  INV_X1 U207 ( .A(a[41]), .ZN(n204) );
  INV_X1 U208 ( .A(a[43]), .ZN(n203) );
  AND2_X1 U209 ( .A1(n204), .A2(n203), .ZN(n208) );
  INV_X1 U210 ( .A(a[42]), .ZN(n206) );
  INV_X1 U211 ( .A(a[40]), .ZN(n205) );
  AND2_X1 U212 ( .A1(n206), .A2(n205), .ZN(n207) );
  AND2_X1 U213 ( .A1(n208), .A2(n207), .ZN(n216) );
  INV_X1 U214 ( .A(a[33]), .ZN(n210) );
  INV_X1 U215 ( .A(a[35]), .ZN(n209) );
  AND2_X1 U216 ( .A1(n210), .A2(n209), .ZN(n214) );
  INV_X1 U217 ( .A(a[34]), .ZN(n212) );
  INV_X1 U218 ( .A(a[32]), .ZN(n211) );
  AND2_X1 U219 ( .A1(n212), .A2(n211), .ZN(n213) );
  AND2_X1 U220 ( .A1(n214), .A2(n213), .ZN(n215) );
  AND2_X1 U221 ( .A1(n216), .A2(n215), .ZN(n217) );
  AND2_X1 U222 ( .A1(n218), .A2(n217), .ZN(n250) );
  INV_X1 U223 ( .A(a[5]), .ZN(n220) );
  INV_X1 U224 ( .A(a[7]), .ZN(n219) );
  AND2_X1 U225 ( .A1(n220), .A2(n219), .ZN(n224) );
  INV_X1 U226 ( .A(a[6]), .ZN(n222) );
  INV_X1 U227 ( .A(a[4]), .ZN(n221) );
  AND2_X1 U228 ( .A1(n222), .A2(n221), .ZN(n223) );
  AND2_X1 U229 ( .A1(n224), .A2(n223), .ZN(n232) );
  INV_X1 U230 ( .A(a[13]), .ZN(n226) );
  INV_X1 U231 ( .A(a[15]), .ZN(n225) );
  AND2_X1 U232 ( .A1(n226), .A2(n225), .ZN(n230) );
  INV_X1 U233 ( .A(a[14]), .ZN(n228) );
  INV_X1 U234 ( .A(a[12]), .ZN(n227) );
  AND2_X1 U235 ( .A1(n228), .A2(n227), .ZN(n229) );
  AND2_X1 U236 ( .A1(n230), .A2(n229), .ZN(n231) );
  AND2_X1 U237 ( .A1(n232), .A2(n231), .ZN(n248) );
  INV_X1 U238 ( .A(a[9]), .ZN(n234) );
  INV_X1 U239 ( .A(a[11]), .ZN(n233) );
  AND2_X1 U240 ( .A1(n234), .A2(n233), .ZN(n238) );
  INV_X1 U241 ( .A(a[10]), .ZN(n236) );
  INV_X1 U242 ( .A(a[8]), .ZN(n235) );
  AND2_X1 U243 ( .A1(n236), .A2(n235), .ZN(n237) );
  AND2_X1 U244 ( .A1(n238), .A2(n237), .ZN(n246) );
  INV_X1 U245 ( .A(a[1]), .ZN(n240) );
  INV_X1 U246 ( .A(a[3]), .ZN(n239) );
  AND2_X1 U247 ( .A1(n240), .A2(n239), .ZN(n244) );
  INV_X1 U248 ( .A(a[2]), .ZN(n242) );
  INV_X1 U249 ( .A(a[0]), .ZN(n241) );
  AND2_X1 U250 ( .A1(n242), .A2(n241), .ZN(n243) );
  AND2_X1 U251 ( .A1(n244), .A2(n243), .ZN(n245) );
  AND2_X1 U252 ( .A1(n246), .A2(n245), .ZN(n247) );
  AND2_X1 U253 ( .A1(n248), .A2(n247), .ZN(n249) );
  AND2_X1 U254 ( .A1(n250), .A2(n249), .ZN(n251) );
  AND2_X1 U255 ( .A1(n252), .A2(n251), .ZN(N0) );
endmodule

